US07247734B2
6-Chloro-7-hydroxy-3-(4-methoxy-phenyl)-4-oxo-4H-chromene-2-carboxylic acid methyl ester was taken up in a 2:1 mixture of sat. NaHCO3 (aq): Methanol and all was heated at 65° C. for 5 hours. The solution was cooled to room temperature and concentrated in vacuo to remove the methanol. The residual aqueous solution was acidified with 1M HCl (aq) and a buff coloured precipitated dropped out of solution. This was collected by vacuum filtration, washed with water and with diethyl ether, to give 6-chloro-7-hydroxy-3-(4-methoxy-phenyl)-4-oxo-4H-chromene-2-carboxylic acid.

reactant | 6-Chloro-7-hydroxy-3-(4-methoxy-phenyl)-4-oxo-4H-chromene-2-carboxylic acid methyl ester | COC(=O)C=1OC2=CC(=C(C=C2C(C1C1=CC=C(C=C1)OC)=O)Cl)O | C18H13ClO6
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | Methanol | CO | CH4O
product | 6-chloro-7-hydroxy-3-(4-methoxy-phenyl)-4-oxo-4H-chromene-2-carboxylic acid | ClC=1C=C2C(C(=C(OC2=CC1O)C(=O)O)C1=CC=C(C=C1)OC)=O | C17H11ClO6
